US08486950B2
To a solution of N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide (141 mg, 0.50 mmol), trans-cyclopropane-1,2-dicarboxylic acid (325 mg, 2.5 mmol), and disiopropylethylamine (339 mg, 2.63 mmol) in dry DMF (5 mL) was added HATU (1951 mg, 2.5 mmol). The reaction mixture was heated at 70° C. for 6 hours and then quenched with sat. NH4Cl (100 mL). The mixture was extracted with EtOAc (3×100 mL). The combined organic extracts were dried with Na2SO4 and concentrated under reduced pressure. The residue was purified by prep HPLC (10-50% CH3CN/H2O with 0.1% formic acid) to give trans-2-(4-(2,6-dichlorobenzamido)pyridin-2-ylcarbamoyl)cyclopropanecarboxylic acid (132 mg, 67% yield). 1H NMR (400 MHz, DMSO-d6) δ 11.14 (s, 1H), 10.86 (s, 1H), 8.38 (s, 1H), 8.23 (d, J=5.6 Hz, 1H), 7.62-7.55 (m, 2H), 7.54-7.45 (m, 2H), 1.90-1.82 (m, 1H), 1.25 (dt, J=8.0, 5.4 Hz, 3H). LCMS (ESI) m/z: 394.0 [M+H+].

reactant | N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide | 0.50 mmol, 141 mg | NC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O
reactant | trans-cyclopropane-1,2-dicarboxylic acid | 2.5 mmol, 325 mg | [C@@H]1([C@@H](C1)C(=O)O)C(=O)O | C5H6O4
reactant | HATU | 2.5 mmol, 1951 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | trans-2-(4-(2,6-dichlorobenzamido)pyridin-2-ylcarbamoyl)cyclopropanecarboxylic acid | 132 mg, 67% yield | ClC1=C(C(=O)NC2=CC(=NC=C2)NC(=O)[C@H]2[C@@H](C2)C(=O)O)C(=CC=C1)Cl | C17H13Cl2N3O4
